US07259266B2
Step 2. Preparation of 8-but-1-ynyl-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To 0.768 g (2.14 mmole) of ethyl-8-but-1-ynyl-6-chloro-2-(trifluoromethyl)-2H-chromene-3- carboxylate was added 11 mL of a solvent mixture of THF/EtOH/H2O (7:2: 1) followed by 135 mg (3.22 mmole) of LiOH—H2O. The mixture was stirred at 60° C. for two hours. The mixture was concd, treated with water, and acidified with 0.5N HCl. The crude solid was purified by reverse phase chromatography to afford 0.575 g (81%) of a yellow crystalline solid: 1H NMR (CDCl3/400 MHz) 1.24 (t, 3H, J=7.2 Hz), 2.46 (q, 2H, J=7.6 Hz), 5.74 (q, 1H J=6.8 Hz), 7.16 (d, 1H, J=2.8 Hz), 7.39 (d, 1H, J=2.4 Hz), 7.81 (s, 1H); MS (ES+) 331 (M+1, 100); HRMS (ES−) m/z calcd for (C15H10O3ClF3) 329.0187, found 329.0202.

reactant | ethyl-8-but-1-ynyl-6-chloro-2-(trifluoromethyl)-2H-chromene-3- carboxylate | 2.14 mmole, 0.768 g | C(C)OC(=O)C=1C(OC2=C(C=C(C=C2C1)Cl)C#CCC)C(F)(F)F | C17H14ClF3O3
reactant | THF EtOH H2O | C1CCOC1.CCO.O
reactant | LiOH—H2O | 3.22 mmole, 135 mg | O[Li].O
reactant | HCl | 0.5N | Cl | ClH
solvent | water | O | H2O
product | 8-but-1-ynyl-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.575 g, 81% | C(#CCC)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)O)Cl | C15H10ClF3O3
